US06166028
(2,6-Dichloro-4-nitro-phenoxy)-acetic acid tert-butyl ester
To a solution of 2,6-dichloro-4-nitrophenol (2.5 g) and potassium carbonate (3.3 g) in dimethyl-formamide (50 mL) is added tert-butyl-bromoacetate (10 mL) and the mixture is stirred at room temperature for two days. The solution is then poured into 500 mL water, extracted three times with hexanes, and the pooled organic extracts are washed with saturated aqueous ammonium chloride and then dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure followed by trituration of the resulting oil with hexanes provides the desired product as a white solid.

reactant | 2,6-dichloro-4-nitrophenol | 2.5 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl-bromoacetate | 10 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | water | 500 mL | O | H2O
solvent | dimethyl-formamide | 50 mL | CN(C=O)C | C3H7NO
product | (2,6-Dichloro-4-nitro-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)=O | C12H13Cl2NO5
